US05852017
6-(3-Formyl-1-pyrrolyl)-7-chloro-2,3(1H,4H)-quinoxalinedione
16.5 mmol of 6-ammonio-7-chloro-2,3(1H,4H)-quinoxalinedione chloride were reacted with 16.5 mmol of 3-formyl-2,5-dimethoxytetrahydrofuran by the method of Example 5d.

reactant | 6-ammonio-7-chloro-2,3(1H,4H)-quinoxalinedione chloride | 16.5 mmol | [Cl-].[NH3+]C=1C=C2NC(C(NC2=CC1Cl)=O)=O
reactant | 3-formyl-2,5-dimethoxytetrahydrofuran | 16.5 mmol | C(=O)C1C(OC(C1)OC)OC | C7H12O4
product | 6-(3-Formyl-1-pyrrolyl)-7-chloro-2,3(1H,4H)-quinoxalinedione | C(=O)C1=CN(C=C1)C=1C=C2NC(C(NC2=CC1Cl)=O)=O | C13H8ClN3O3
